US07790724B2
c) 4-Cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(2-sulfamoyl-ethyl)-phenyl]-amide
A solution of 311 mg (0.506 mmol) of 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-(2-tert-butylsulfamoyl-ethyl)-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide (as prepared in the previous step) in CH2Cl2 (6 mL) was treated with EtOH (175 μL), anisole (80.0 μL), and TFA (1.8 mL). Additional TFA (0.5 mL each) was added at 3.5 and at 26 h. The mixture stirred at RT for a total of 48 h. MeOH (3 mL) was added, the mixture was concentrated in vacuo, and the residue was purified by RP-HPLC (C18) with 20-100% CH3CN in 0.1% TFA/H2O over 30 min to afford 70.5 mg (32%) of the title compound as a white solid: 1H-NMR (CD3OD; 400 MHz): δ 8.17 (d, 1H, J=8.0 Hz), 8.01 (s, 1H), 7.21 (dd, 1H, J=8.0, 2.0 Hz), 7.13 (d, 1H, J=2.0 Hz), 5.79-5.73 (m, 1H), 3.40-3.34 (m, 1H), 3.16-3.07 (m, 2H), 2.37-2.29 (m, 2H), 2.13-2.07 (m, 2H), 1.65-1.57 (m, 2H), 1.10 (s, 6H). Mass spectrum (ESI, m/z): Calcd. for C21H25N5O3S, 428.2 (M+H), found 428.1.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-(2-tert-butylsulfamoyl-ethyl)-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide | 0.506 mmol, 311 mg | C(C)(C)(C)NS(=O)(=O)CCC1=CC(=C(C=C1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CCC(CC1)(C)C | C31H47N5O4SSi
reactant | EtOH | 175 μL | CCO | C2H6O
reactant | anisole | 80.0 μL | C1(=CC=CC=C1)OC | C7H8O
reactant | TFA | 1.8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 3 mL | CO | CH4O
product | 4-Cyano-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-4-(2-sulfamoyl-ethyl)-phenyl]-amide | 70.5 mg, 32% | CC1(CC=C(CC1)C1=C(C=CC(=C1)CCS(N)(=O)=O)NC(=O)C=1NC=C(N1)C#N)C | C21H25N5O3S
